US07091353B2
{N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]carbamoyl}methyl acetate I-31
To a stirred suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.55 g, 2.0 mmol) in THF (30 ml) was added (chlorocarbonyl)methyl acetate (0.55 g, 4.0 mmol). The mixture was heated to reflux for 18 hours. The solvent was evaporated in vacuo and the resulting solid was slurried in diethyl ether (20 ml) and filtered to give 0.56 g (75%) of product as an off-white solid: mp 234–236° C.; 1H NMR (DMSO-d6) δ 11.15 (s, 1H), 10.06 (s, 1H), 8.55 (d, J=8.3 Hz, 1H), 7.87 (t, J=8.0 Hz, 1H), 7.65 (d, J=7.2 Hz, 1H), 5.17 (dd, J=5.0 and 12.4 Hz, 1H), 4.78 (s, 2H), 2.99–2.85 (m, 1H), 2.65–2.52 (m, 2H), 2.22 (s, 2H), 2.11–2.07 (m, 1H); 13C NMR (DMSO-d6) δ 172.70, 169.69, 169.50, 167.99, 166.57, 136.40, 135.59, 131.35, 125.34, 118.72, 116.96, 62.60, 48.98, 30.90, 21.91, 20.41; Anal. Calcd. For C17H15N3O7: C, 54.69; H, 4.05; N, 11.26. Found: C, 54.43; H, 4.05; N, 10.97.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2.0 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | (chlorocarbonyl)methyl acetate | 4.0 mmol, 0.55 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | {N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]carbamoyl}methyl acetate | 0.56 g, 75% | C(C)(=O)OCC(NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O)=O | C17H15N3O7
